US07094801B2
Ex-70A: A solution of benzene-1,2-diamine (2.60 g, 24.1 mmol) and 2,4-dimethoxy-benzaldehyde (4.0 g, 24.1 mmol) in ethanol (60 mL) containing catalytic amount of acetic acid was refluxed overnight. Solvent was then evaporated under reduced pressure. The residue oil was triturated in ethyl acetate to obtain 2-(2,4-dimethoxy-phenyl)-1H-benzoimidazole (0.76 g, 12%). The crude product was used without further purification. To a solution of 2-(2,4-dimethoxy-phenyl)-1H-benzoimidazole obtained above (0.76 g, 2.99 mmol) in dichloromethane (20 mL) was added dichloromethyl methyl ether (0.41 mL, 4.48 mmol) followed by addition of titanium tetrachloride (1.0M in dichloromethane, 9.0 mL, 9.0 mmol) at 0° C. The reaction mixture was allowed to stir overnight at ambient temperature and then poured into ice. A solution of sodium hydroxide (5M) was added dropwise until the pH of the solution was about 12. The basic solution was extracted with dichloromethane. The combined solution of dichloromethane was subsequently washed with brine, dried over sodium carbonate and concentrated. The product, 5-(1H-benzoimidazol-2-yl)-2,4-dimethoxy-benzaldehyde (0.40 g, 47%), was obtain and used without further purification. 1H NMR (CDCl3) δ 10.32 (s, 1H), 10.27 (bs, 1H), 9.03 (s, 1H), 7.83 (d, J=9 Hz, 1H), 7.48–7.45 (m, 1H), 7.31–7.22 (m, 1H), 6.58 (s, 1H), 4.18 (s, 3H), 4.01 (s, 3H). MS m/z=282 (M+, 100%).

reactant | benzene-1,2-diamine | 24.1 mmol, 2.60 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | 2,4-dimethoxy-benzaldehyde | 24.1 mmol, 4.0 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2-(2,4-dimethoxy-phenyl)-1H-benzoimidazole | 0.76 g, 12% | COC1=C(C=CC(=C1)OC)C1=NC2=C(N1)C=CC=C2 | C15H14N2O2
